US08211897B2
To a solution of cyclopropylisonitrile (1.21 g, 18 mmol), (S)-tert-butyl 1-cyclobutyl-3-oxopropan-2-ylcarbamate (2.95 g, 13 mmol) in methylene chloride(20 mL), was added acetic acid (1.56 g, 26 mmol) at 0° C. After the addition was complete, the reaction mixture was allowed to warm to 25° C. and stirred for another 4 hours. The reaction mixture was diluted with 200 mL ethyl acetate and washed with a saturated solution of sodium bicarbonate, then brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure, and the crude product was crystallized from 50 mL of ethyl acetate and hexane (v/v=1/1) to give (3S)-3-(tert-butoxycarbonylamino)-4-cyclobutyl-1-(cyclopropylamino)-1-oxobutan-2-yl acetate (3.8 g) as a white solid.

reactant | cyclopropylisonitrile | 18 mmol, 1.21 g | C1(CC1)[N+]#[C-] | C4H5N
reactant | (S)-tert-butyl 1-cyclobutyl-3-oxopropan-2-ylcarbamate | 13 mmol, 2.95 g | C1(CCC1)C[C@@H](C=O)NC(OC(C)(C)C)=O | C12H21NO3
reactant | acetic acid | 26 mmol, 1.56 g | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (3S)-3-(tert-butoxycarbonylamino)-4-cyclobutyl-1-(cyclopropylamino)-1-oxobutan-2-yl acetate | 3.8 g | C(C)(=O)OC(C(=O)NC1CC1)[C@H](CC1CCC1)NC(=O)OC(C)(C)C | C18H30N2O5
